US04638012
A. (2R)-2-(Hexanoylamino)propionic acid
D-alanine (20 mmol) and hexanoyl chloride (22 mmol) were reacted using the method as described in Example 5 Part A to give the title compound as a white crystalline material (2.45 g, 65.5%) after recrystallization from isopropyl ether (20 ml), m.p. 82°-95° C.

reactant | D-alanine | 20 mmol | N[C@H](C)C(=O)O | C3H7NO2
reactant | hexanoyl chloride | 22 mmol | C(CCCCC)(=O)Cl | C6H11ClO
product | (2R)-2-(Hexanoylamino)propionic acid | C(CCCCC)(=O)N[C@@H](C(=O)O)C | C9H17NO3
